US09340538B2
Methyl 4-(2,4-dichlorophenyl)-6-(((S)-3-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Methyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.92 g, 2 mmol) was reacted with (S)-morpholin-3-ylmethanol (0.24 g, 2 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a pale yellow solid (0.44 g, 44%). The compound was characterized by the following spectroscopic data:

reactant | Methyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 0.92 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OC | C16H12BrCl2N3O2S
reactant | (S)-morpholin-3-ylmethanol | 2 mmol, 0.24 g | N1[C@H](COCC1)CO | C5H11NO2
product | Methyl 4-(2,4-dichlorophenyl)-6-(((S)-3-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.44 g, 44% | ClC1=C(C=CC(=C1)Cl)C1N=C(NC(=C1C(=O)OC)CN1[C@H](COCC1)CO)C=1SC=CN1 | C21H22Cl2N4O4S
